US07820823B2
(1-Benzhydryl-azetidin-3-yl)-(2-fluoro-4-nitro-phenyl)-amine
A solution of 7.96 g of 1-benzhydrylazetidin-3-ylamine (33.41 mmol), 3.69 ml 3,4-difluoronitrobenzene (33.41 mmol) and 4.65 ml triethylamine (33.41 mmol)) in 50 ml ethyl acetate was stirred for 2 weeks at 60° C. The reaction was diluted with water and the product extracted with ethyl acetate. The organic layer was washed with water and brine, dried over MgSO4, filtered and evaporated.

reactant | 1-benzhydrylazetidin-3-ylamine | 33.41 mmol, 7.96 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N | C16H18N2
reactant | 3,4-difluoronitrobenzene | 33.41 mmol, 3.69 ml | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | triethylamine | 33.41 mmol, 4.65 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (1-Benzhydryl-azetidin-3-yl)-(2-fluoro-4-nitro-phenyl)-amine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NC1=C(C=C(C=C1)[N+](=O)[O-])F | C22H20FN3O2
